US07435815B2
Cyclopropyl-(2,5-dichloro-benzyl)-amine
prepared by reaction of cyclopropylamine with 2,5-dichloro-benzaldehyde.

reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | 2,5-dichloro-benzaldehyde | ClC1=C(C=O)C=C(C=C1)Cl | C7H4Cl2O
product | Cyclopropyl-(2,5-dichloro-benzyl)-amine | C1(CC1)NCC1=C(C=CC(=C1)Cl)Cl | C10H11Cl2N
